* Fuzz Face-style NPN circuit (positive-ground silicon variant).
* Paste into the workbench (Paste netlist) or open this .cir file.
* Q pins are SPICE order: collector base emitter.
.model 2N5088 npn(bf=200)
C1 in Q1b 2.2u
R1 vcc Q1c 33k
R2 Q1b Q2e 100k
Q1 Q1c Q1b 0 2N5088
Q2 Q2c Q1c Q2e 2N5088
R3 vcc Q2c 8.2k
R4 Q2e 0 1k
C2 Q2e 0 20u
C3 Q2c pv2 10n
P1 0 pv2 out 100k position=0.6 taper=log
.end